US05854242
6-Carbomethoxy-4-(3-chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-6-carbomethoxy-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 3-chlorobenzyl bromide, in 70% overall yield as a white solid, after trituration with hexane, IR (KBr) 3468, 2952, 1688, 1452, 1285, 1260, 765 cm-1 ; 1H NMR (CDCl3) δ 1.61 (br s, 1H plus HDO), 2.17-2.39 (m, 2H), 3.86 (s, 3H), 3.93 (t, J=5.7 Hz, 2H), 4.94 (dd, J=7.6, 5.5 Hz, 1H), 5.16 (s, 2H), 7.04 (d, J=8.4, 1H), 7.15-7.33 (m, 4H), 7.59 (d, J=1.8 Hz, 1H), 7.71 (dd, J=8.4, 1.8 Hz, 1H); MH+ at m/z=376; Anal. Calc'd for C19 H18ClNO5.0.1 H2O: C, 60.44; H, 4.86; N, 3.71. Found: C, 60.26; H, 4.60; N, 3.58.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-6-carbomethoxy-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=C(C=C2)C(=O)OC | C18H27NO5Si
reactant | 3-chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | hexane | CCCCCC | C6H14
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | 6-Carbomethoxy-4-(3-chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine | C(=O)(OC)C=1C=CC2=C(N(C(C(O2)CCO)=O)CC2=CC(=CC=C2)Cl)C1 | C19H18ClNO5
